US07253286B2
N-(4-(3-Phenylpyridin-4-yl)oxyphenyl)-N′-(4-fluorophenyl)urea
Ethyl acetate (10 ml) was added to 4-(3-phenylpyridin-4-yl)oxyaniline (84 mg, 0.32 mM), and then parafluorophenyl isocyanate (0.54 ml, 4.7 mM) was added while stirring, which was continued for 40 minutes. After adding NH type silica gel to the reaction solution, the solvent was distilled off under reduced pressure to adsorb the reaction product onto the silica gel. The silica gel was charged into a dry column packed with NH type silica gel, for column purification (chloroform:methanol=10:1). After adding ethyl acetate and n-hexane to the obtained residue, the solvent was distilled off under reduced pressure to obtain the target compound (82 mg) as a light yellow amorphous substance.

reactant | 4-(3-phenylpyridin-4-yl)oxyaniline | 0.32 mM, 84 mg | C1(=CC=CC=C1)C=1C=NC=CC1OC1=CC=C(N)C=C1 | C17H14N2O
reactant | parafluorophenyl isocyanate | 4.7 mM, 0.54 ml | FC1=CC=C(C=C1)N=C=O | C7H4FNO
solvent | Ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
product | N-(4-(3-Phenylpyridin-4-yl)oxyphenyl)-N′-(4-fluorophenyl)urea | 82 mg | C1(=CC=CC=C1)C=1C=NC=CC1OC1=CC=C(C=C1)NC(=O)NC1=CC=C(C=C1)F | C24H18FN3O2
